US06972287B1
Preparation of 2-{4-[4-(3,4-Dichloro-phenyl)-butyl]-phenylamino}-5-nitro-benzoic acid
A mixture of 2-fluoro-5-nitrobenzoic acid (1.85 g, 0.01 mol), 4-[4-(3,4-dichlorophenyl)butyl]-phenylamine (2.94 g, 0.01 mol) and Et3N (2.80 mL) in acetonitrile (110 mL) was heated to reflux for 48 hours. The reaction mixture was cooled and concentrated in vacuo to remove the solvent. The residue was dissolved in CH2C2 and washed with diluted HCl. The organic layer was dried Na2SO4), concentrated in vacuo to give a crude solid. Purification by flash chromatography (silica gel, CH2Cl2) yielded 1.40 g (0.003 mol, 30%) of the desired product.

reactant | 2-fluoro-5-nitrobenzoic acid | 0.01 mol, 1.85 g | FC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | 4-[4-(3,4-dichlorophenyl)butyl]-phenylamine | 0.01 mol, 2.94 g | ClC=1C=C(C=CC1Cl)CCCCC1=CC=C(C=C1)N | C16H17Cl2N
reactant | Et3N | 2.80 mL | CCN(CC)CC | C6H15N
solvent | acetonitrile | 110 mL | C(C)#N | C2H3N
product | 2-{4-[4-(3,4-Dichloro-phenyl)-butyl]-phenylamino}-5-nitro-benzoic acid | 0.003 mol, 1.40 g, 30% | ClC=1C=C(C=CC1Cl)CCCCC1=CC=C(C=C1)NC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C23H20Cl2N2O4
